US07935727B2
Methyl 2″-{[[3,5-bis(trifluoromethyl)benzyl](methoxycarbonyl)amino]methyl}-2-chloro-6′-fluoro-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate
Methyl[3,5-bis(trifluoromethyl)benzyl][2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)benzyl]carbamate (100 mg, 0.171 mmol), methyl 2-chloro-2′-fluoro-5′-iodo-4′-methoxybiphenyl-4-carboxylate (71.9 mg, 0.171 mmol), 1,1′-bis(diphenylphosphino) ferrocene-palladium dichloride dichloromethane adduct (13.95 mg, 0.017 mmol), potassium carbonate (0.256 ml, 0.513 mmol) and 1,4-dioxane (1 ml) were sealed and subjected to microwave irradiation for 30 min at 140° C. An aliquot indicated formation of the desired product. The crude reaction mixture was dried over Na2SO4. The resulting dark mixture was purified by preparative TLC (silica gel) developed by EtOAc/hexanes (20%, v/v) mixture to give a green glass as the title compound. LCMS calc.=751.12; found=752.36 (M+1)+.

reactant | Methyl[3,5-bis(trifluoromethyl)benzyl][2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)benzyl]carbamate | 0.171 mmol, 100 mg | COC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C25H25BF9NO4
reactant | methyl 2-chloro-2′-fluoro-5′-iodo-4′-methoxybiphenyl-4-carboxylate | 0.171 mmol, 71.9 mg | ClC1=C(C=CC(=C1)C(=O)OC)C1=C(C=C(C(=C1)I)OC)F | C15H11ClFIO3
reactant | potassium carbonate | 0.513 mmol, 0.256 ml | C([O-])([O-])=O.[K+].[K+]
catalyst | 1,1′-bis(diphenylphosphino) ferrocene-palladium dichloride dichloromethane | 0.017 mmol, 13.95 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | Methyl 2″-{[[3,5-bis(trifluoromethyl)benzyl](methoxycarbonyl)amino]methyl}-2-chloro-6′-fluoro-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | FC(C=1C=C(CN(C(=O)OC)CC2=C(C=CC(=C2)C(F)(F)F)C=2C=C(C(=CC2OC)F)C2=C(C=C(C=C2)C(=O)OC)Cl)C=C(C1)C(F)(F)F)(F)F | C34H24ClF10NO5
